US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
A solution of N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide (128 mg, 0.4 mmol) and the 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine (111 mg, 0.48 mmol) in acetonitrile (2 mL) containing potassium carbonate (111 mg, 0.8 mmol) was heated in a microwave reactor at 160° C. for 6 hours. The reaction mixture was filtered and the filtrate evaporated to dryness under reduced pressure and purified by chromatography on silica, eluting with 50-100% ethyl acetate in hexane to give the required product as a white foam (176 mg).

reactant | N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 0.4 mmol, 128 mg | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)O)=O | C16H21N3O4
reactant | 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine | 0.48 mmol, 111 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)Cl)Cl | C9H8Cl2N2O
reactant | potassium carbonate | 0.8 mmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 176 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)CC)C=C(C1)O[C@H](COC)C)Cl | C25H28ClN5O5
